US05830892
To a solution of [2S,3S]-1-(4-chlorobut-2-yn-1-yl)-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol-5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine (142 mg) in dimethyl sulphoxide (3.0 ml) was added sodium azide (20.1 mg). The solution was stirred for 3 hours at room temperature at which time aqueous ammonium chloride and ethyl acetate were added. The organic phase was separated, washed with water (20 ml), saturated brine (20 ml) dried over MgSO4, filtered and the solvent removed under reduced pressure. Purification by MPLC (20% ethyl acetate/hexane) gave [2S,3S]-1-(4-azidobut-2-yn-1-yl)-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine as a white solid (120 mg). 1H NMR (360 MHz,CDCl3) δ 1.20-1.60 (2H, m), 2.22 (2H, m), 2.67 (1H, m), 2.98 (1H, m), 3.27 (2H, m), 3.47 (1H, br s), 3.62 (1H, br s), 3.92 (2H, s), 3.98 (3H, s), 4.47 (1H, d, J=11.0 Hz), 4.81 (1H, d, J=11.0 Hz), 7.26-7.35 (4H, m), 7.44-7.47 (4H, m), 7.69 (1H, s).

reactant | [2S,3S]-1-(4-chlorobut-2-yn-1-yl)-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol-5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 142 mg | ClCC#CCN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C1=CN=NN1C)C1=CC=CC=C1 | C26H26ClF3N4O
reactant | sodium azide | 20.1 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 3.0 ml | CS(=O)C | C2H6OS
product | [2S,3S]-1-(4-azidobut-2-yn-1-yl)-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 120 mg | N(=[N+]=[N-])CC#CCN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C1=CN=NN1C)C1=CC=CC=C1 | C26H26F3N7O
